US05496930
325 mg (1.73 mmol) of 6-O-acetylglucal are dissolved in 1 ml of dimethoxyethane, 1 ml of vinyl methoxyacetate and 325 mg of lipase Fp (Pseudomonas fluorescens, Amano) are added, and the mixture is stirred at room tempera-tufa for 51/2hours. Filtering off the enzyme and flash chromatography on silica gel (ethyl acetate/hexane 1:2) result in 422 mg (1.62 mmol, 93.8% yield) of the desired 3-O-methoxyacetyl-6-O-acetylglucal.

reactant | 6-O-acetylglucal | 1.73 mmol, 325 mg | C(C)(=O)OC[C@@H]1[C@H]([C@@H](C=CO1)O)O | C8H12O5
reactant | vinyl methoxyacetate | 1 ml | COCC(=O)OC=C | C5H8O3
solvent | dimethoxyethane | 1 ml | C(OC)COC | C4H10O2
product | 3-O-methoxyacetyl-6-O-acetylglucal | 1.62 mmol, 422 mg, 93.8% yield | COCC(=O)O[C@@H]1C=CO[C@@H]([C@H]1O)COC(C)=O | C11H16O7
